US05290943
In 300 ml of water, 15.0 g (0. lmol) of 2-acetamido-4-methylpyridine (Ia) was dissolved. To this solution, 35.5 g (0.25 mol) of disodium hydrogenphosphate and 100 ml of dichloromethane were added in this order. While this mixture was stirred, 8.0 g (0.11 mol) of chlorine was introduced thereto at 0° C. for one hour. After having further been stirred at the same temperature for 2 hours, the mixture was separated into a water layer and an extract layer. After the water layer was further extracted with 100 ml of dichloromethane, the newly-separated extract layer was combined with the previously-separated extract layer and washed with saturated brine. Then the washed mixture was desiccated with sodium sulfate anhydride. When the solvent was evaporated off, 18.0 g (yield: 97.3%) of 2-acetamido-4-methyl-5-chloropyridine (IIk) was obtained as a pale yellow crystal.

reactant | 2-acetamido-4-methylpyridine | 15.0 g | C(C)(=O)NC1=NC=CC(=C1)C | C8H10N2O
reactant | disodium hydrogenphosphate | 0.25 mol, 35.5 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | chlorine | 0.11 mol, 8.0 g | ClCl | Cl2
solvent | water | 300 ml | O | H2O
product | 2-acetamido-4-methyl-5-chloropyridine | 18.0 g, yield: 97.3% | C(C)(=O)NC1=NC=C(C(=C1)C)Cl | C8H9ClN2O
